US08389520B2
2-(6-Morpholin-4-ylpyrimidin-4-yl)-4-(1H-1,2,3-triazol-1-yl)-1,2-dihydro-3H-pyrazol-3-one hydrochloride
Batch 2: A further amount of the title compound is obtained as follows: The residue (2.4 g) obtained from the mother liquor during the synthesis of Example Compound 71, which contains the open-ring intermediate state of the cyclization, 3-[2-(6-morpholin-4-ylpyrimidin-4-yl)hydrazino]-2-(1H-1,2,3-triazol-1-yl)prop-2-enoic acid ethyl ester, is dissolved in 12 ml ethanol and 1.5 ml 30% strength sodium methylate solution in methanol are added at RT, while stirring. The mixture is subsequently stirred at RT for 45 min, then adjusted to pH 5 with 2 N hydrochloric acid and subsequently stirred at RT for a further 16 h. The mixture is cooled to 10° C. and the solid is filtered off and washed with 3.5 ml dioxane. The mixture is dried under a high vacuum for 16 h, 5 ml methanol are then added and the mixture is subsequently stirred at RT for 1 h. The solid is filtered off, washed with 2 ml methanol and dried under a high vacuum to give a further 997 mg of the title compound in this way.

reactant | 3-[2-(6-morpholin-4-ylpyrimidin-4-yl)hydrazino]-2-(1H-1,2,3-triazol-1-yl)prop-2-enoic acid ethyl ester | C(C)OC(C(=CNNC1=NC=NC(=C1)N1CCOCC1)N1N=NC=C1)=O | C15H20N8O3
reactant | sodium methylate | C[O-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 2-(6-Morpholin-4-ylpyrimidin-4-yl)-4-(1H-1,2,3-triazol-1-yl)-1,2-dihydro-3H-pyrazol-3-one hydrochloride | 997 mg | Cl.N1(CCOCC1)C1=CC(=NC=N1)N1NC=C(C1=O)N1N=NC=C1 | InChI=1S/C13H14N8O2.ClH/c22-13-10(20-2-1-16-18-20)8-17-21(13)12-7-11(14-9-15-12)19-3-5-23-6-4-19;/h1-2,7-9,17H,3-6H2;1H
